US06140332
Step 14.2: 4-Chloro-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine
With the exclusion of moisture, 1.795 g (8.5 mmol) of 6-phenyl-7H-pyrrolo[2,3-d]-pyrimidin-4-ol and 27 ml of phosphorus oxychloride are heated at boiling for 3 hours. Pouring the reaction mixture into ice-water, filtering and washing with hot isopropanol and hexane yield the title compound; FAB-MS: (M+H)+ =230.

reactant | 6-phenyl-7H-pyrrolo[2,3-d]-pyrimidin-4-ol | 8.5 mmol, 1.795 g | C1(=CC=CC=C1)C1=CC2=C(N=CN=C2O)N1 | C12H9N3O
reactant | phosphorus oxychloride | 27 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=CC=C2 | C12H8ClN3
